US06794397B2
6-Chloro-N-(4-ethoxy-2-nitrophenyl)-N-methyl-3-pyridinecarboxamide
To a solution of 6-chloro-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide (50 mg, 0.155 mmol) in DMF (2 ml) was added sodium methoxide (12 mg, 0.222 mmol) in DMF (1 ml) and the reaction mixture was stirred for 10 min. To the mixture was added iodomethane (22 mg, 0.155 mmol) slowly and the mixture was stirred for at room temperature for 3 h. It was diluted with ethyl acetate and washed with water and brine, dried over anhydrous sodium sulfate, and evaporated. The residue was purified by column chromatography to yield the titled compound as a light brown liquid. 1H NMR (CDCl3): 8.17 (d, J=2.1, 1H), 7.68-7.65 (m, 1H), 7.35 (d, J=2.7, 1H), 7.21 (t, J=7.8, 2H), 7.10-7.06 (m, 1H), 4.08-4.01 (m, 2H), 3.40 (s, 3H), 1.44 (t, J=6.9, 3H).

reactant | 6-chloro-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide | 0.155 mmol, 50 mg | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C14H12ClN3O4
reactant | sodium methoxide | 0.222 mmol, 12 mg | C[O-].[Na+]
reactant | iodomethane | 0.155 mmol, 22 mg | IC | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-N-(4-ethoxy-2-nitrophenyl)-N-methyl-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)N(C)C1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C15H14ClN3O4
